US04596805
Methyl 5-(3-Chlorophenyl)-5,8-dihydro-1,3,7-trimethyl-2,4-dioxopyrido[2,3-d]pyrimidine-6-carboxylate
A mixture of 6-amino-N,N'-dimethyluracil (1.5 g, 10 mM) and methyl 2-(3-chlorobenzylidene)acetoacetate (2.38 g, 10 mM) in glacial acetic acid (20 ml) was stirred at reflux under N2 for 3 hrs., cooled to ambient, evaporated in vacuo and diluted with acetone to precipitate out the product. Recrystallization from MeOH/Acetone gave the title compound (2.0 g,53%), mp. 230° C.

reactant | 6-amino-N,N'-dimethyluracil | 10 mM, 1.5 g | NC1=CC(N(C(N1C)=O)C)=O | C6H9N3O2
reactant | methyl 2-(3-chlorobenzylidene)acetoacetate | 10 mM, 2.38 g | ClC=1C=C(C=C(C(=O)OC)C(=O)C)C=CC1 | C12H11ClO3
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | Methyl 5-(3-Chlorophenyl)-5,8-dihydro-1,3,7-trimethyl-2,4-dioxopyrido[2,3-d]pyrimidine-6-carboxylate | 2.0 g, 53% | ClC=1C=C(C=CC1)C1C(=C(NC=2N(C(N(C(C21)=O)C)=O)C)C)C(=O)OC | C18H18ClN3O4
